US06352982B1
4-(41-Hydroxyphenyl)benzoic acid (2.0 g) was dissolved in N,N-dimethylformamide (30 ml). To the solution were added benzyl bromide (3.99 g) and potassium carbonate (3.86 g). The mixture was stirred for 3 hours at 80° C. The reactiontmixture was poured into water (100 ml), which was subjected to extraction with ethyl acetate (150 ml). The organic layer was washed with 5% potassium hydrogensulfate, which was then washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to leave 4-(4′-benzyloxyphenyl)-benzoic acid benzyl ester as a scale-like crystalline product (3.4 g). m.p.: 138-140° C.

reactant | benzyl bromide | 3.99 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 3.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(4′-benzyloxyphenyl)-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C27H22O3
